US07160876B2
N-(4-iodophenyl)quinuclidin-3-amine
3-Quinuclidinone hydrochloride (Aldrich, 3.22 g, 20 mmol) was treated with 4-iodo-aniline (Aldrich, 2.19 g, 10 mmol), Na2SO4 (anhydrous, Aldrich, 7.40 g, 50 mmol) and NaBH(OAc)3 (Aldrich, 3.16 g, 15 mmol) in HOAc (25 mL) at ambient temperature for 15 h. After the reaction was complete, the reaction mixture was slowly poured into a flask containing 75 mL of saturated NaHCO3 and stirred for 20 min. It was then extracted with EtOAc (3×100 mL). The extracts were combined and washed with brine (2×20 mL). The organic solution was concentrated under reduced pressure and the title compound was purified by chromatography (SiO2, CH2Cl2:MeOH:NH3.H2O, 90:10:2, Rf. 0.10) as oil (3.24 g, yield, 98%). 1H NMR (300 MHz, CD3OD,) δ 1.70–1.81 (m, 1H), 1.93–2.04 (m, 2H), 2.08–2.24 (m, 2H), 2.89 (ddd, J=12.9, 5.1, 2.7 Hz, 1H), 3.12–3.28 (m, 4H), 3.64 (ddd, J=12.9, 9.5, 2.4 Hz, 1H), 3.79–3.85 (m, 1H), 6.46 (dt, J=9.0, 2.7 Hz, 2H), 7.39 (dt, J=9.1, 2.7 Hz, 2H) ppm. MS (DCl/NH3) m/z 329 (M+H)+.

reactant | 3-Quinuclidinone hydrochloride | 20 mmol, 3.22 g | Cl.N12CC(C(CC1)CC2)=O
reactant | 4-iodo-aniline | 10 mmol, 2.19 g | IC1=CC=C(N)C=C1 | C6H6IN
reactant | Na2SO4 | 50 mmol, 7.40 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | NaBH(OAc)3 | 15 mmol, 3.16 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 75 mL | C(=O)(O)[O-].[Na+]
solvent | HOAc | 25 mL | CC(=O)O | C2H4O2
product | N-(4-iodophenyl)quinuclidin-3-amine | IC1=CC=C(C=C1)NC1CN2CCC1CC2 | C13H17IN2
